datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21]([C:22]([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])([H:29])([H:30])[H:31]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[C:22]([C:21]([H:29])([H:30])[H:31])([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])[H:11],41.0869
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:32])([H:33])[H:34])[C:27](=[C:28]([H:36])[H:37])[H:35])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])([H:14])[C:25]([C:24](=[C:23]([H:29])[H:30])[H:31])([C:26]([H:32])([H:33])[H:34])[C:27](=[C:28]([H:36])[H:37])[H:35])[H:13])([H:11])[H:12],67.7808
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21],30.5432
[S:0]([S:1][H:3])[H:2].[S:4][H:5]>>[H:2][S:4][H:5].[S:0][S:1][H:3],-10.0416
[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[Cl:20]>>[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[H:8][Cl:20],2.93002
[S:0].[S:1][S:2][H:3]>>[S:0][H:3].[S:1][S:2],-2.5104
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:18]([C:17]([H:21])([H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:7],6.31784
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[O:8]=[C:9]=[O:10]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])([H:4])[C:9]([O:8][H:2])=[O:10],320.494
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[C:21]([H:22])([H:23])[H:24]>>[C:0]([C:1]1([H:10])[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:11][C:21]([H:22])([H:23])[H:24],47.772912
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][O:35][O:36],199.11656
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:18])[C:5]([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]([H:25])([H:26])[C:9]1([H:27])[H:28])([H:16])[H:17])([H:14])[H:15])([H:13])[H:19])([H:10])([H:11])[H:12],62.872968
[C:0]([C:1]1[C:2]([H:10])([H:11])[C:3]([H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]1([H:16])[H:17])([H:7])([H:8])[H:9]>>[C:0]([C:1]1=[C:2]([H:11])[C:3]([H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]1([H:16])[H:17])([H:7])([H:8])[H:9].[H:10],133.888
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19])[H:17])[H:16])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])([H:19])[C:7]1([C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:20])[H:12],107.445
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21],-25.5224
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1]([S:2][C:7]([H:8])([H:9])[H:10])[H:5])([H:3])[H:4].[H:6],64.0152
